US09029374B2
To a mixture of 8-(1-aminoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (350 mg, 1.01 mmol, single enantiomer, [α]D20°: +35° in acetonitrile), cesium carbonate (1288 mg, 3.95 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (147 mg, 0.25 mmol) and 1-bromo-3-chloro-5-fluorobenzene (467 mg, 2.23 mmol) in degassed 1,4-dioxane (2 ml), was added tris(dibenzylideneacetone)dipalladium (70 mg, 0.08 mmol). The suspension was heated in a sealed container at 95° C. for 16 hrs. The reaction mixture was filtered through a short pad of dicalite and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with 0 to 8% isopropanol in DCM. The solvent was evaporated to dryness, the product triturated with diethyl ether—DCM (9:1), collected by filtration and dried to afford 8-(1-(3-chloro-5-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (320 mg; 67%) as a clear yellow solid. Mass Spectrum: M+H+ 474. [α]D20°: −138°. NMR Spectrum (DMSOd6): 1.52 (d, 3H), 2.75 (bs, 3H), 2.95 (bs, 3H), 3.49-3.63 (m, 4H), 3.70-3.79 (m, 4H), 4.98-5.07 (m, 1H), 5.60 (s, 1H), 6.23 (d, 1H), 6.42 (d, 1H), 6.43 (ddd, 1H), 6.94 (d, 1H), 7.54 (d, 1H), 7.80 (d, 1H).

reactant | 8-(1-aminoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 1.01 mmol, 350 mg | NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C18H23N3O4
reactant | cesium carbonate | 3.95 mmol, 1288 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.25 mmol, 147 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 1-bromo-3-chloro-5-fluorobenzene | 2.23 mmol, 467 mg | BrC1=CC(=CC(=C1)F)Cl | C6H3BrClF
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.08 mmol, 70 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-(1-(3-chloro-5-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 320 mg, 67% | ClC=1C=C(C=C(C1)F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C24H25ClFN3O4
